US07531566B2
A solution of 4-(trifluoromethyl)piperidin-4-ol and 1-bromo-3-chloropropane are reacted using the procedure for Example OO to afford 1-(3-chloropropyl)-4-(trifluoromethyl)piperidin-4-ol.

reactant | 4-(trifluoromethyl)piperidin-4-ol | FC(C1(CCNCC1)O)(F)F | C6H10F3NO
reactant | 1-bromo-3-chloropropane | BrCCCCl | C3H6BrCl
product | 1-(3-chloropropyl)-4-(trifluoromethyl)piperidin-4-ol | ClCCCN1CCC(CC1)(O)C(F)(F)F | C9H15ClF3NO
